US06005008
b) Preparation of N-(2-hydroxy-4-nitrophenyl)-N'-phenyl-thiourea
N-(2-Hydroxy-4-nitrophenyl)-N'-phenyl-2-thiourea was prepared by treating a solution of N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea (100 mg, 0.248 mmol) in CH3CN (1 mL) with Et3N.HF (100 uL, 0.62 mmol) in acetonitrile for 10 minutes at 23° C. The solution was concentrated and flushed through a silica plug with EtOAc to afford the desired compound as an orange solid (55 mg, 77%). mp: 144-145° C.; 1H NMR (CD3OD/CDCl3): δ 8.65 (d, 1H, J=10.0 Hz), 7.58 (d, 1H, J=10.0 Hz), 7.47 (d, 1H, J=1.25 Hz), 7.26 (m, 4H), 7.10 (m, 1H).

reactant | N-(2-tert-butyldimethysilyloxy-4-nitrophenyl)-N'-phenyl-thiourea | 0.248 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=S)NC1=CC=CC=C1 | C19H25N3O3SSi
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-hydroxy-4-nitrophenyl)-N'-phenyl-thiourea | 55 mg, 77% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=S)NC1=CC=CC=C1 | C13H11N3O3S
